### PR TITLE
[Merged by Bors] - feat(NumberField/CanonicalEmbedding/NormLeOne): Prove a change of variable formula for `expMapBasis`

### PR DESCRIPTION
**Pull request by xroblot**
In this PR, we prove a change of variable formula for `expMapBasis` that we will use in the next PR to compute the volume of the set `normLeOne`. 

This PR is part of the proof of the Analytic Class Number Formula.

---

- [x] depends on: #22602 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean [hunk 1]
```diff
@@ -399,6 +456,78 @@ theorem expMapBasis_apply' (x : realSpace K) :
...
+        (2⁻¹) ^ nrComplexPlaces K := by
+  simp only [deriv_expMap_single, expMap_single_apply]
+  rw [Finset.prod_mul_distrib]
+  congr 1
+  · simp_rw [← prod_expMapBasis_pow, prod_eq_prod_mul_prod, expMapBasis_apply, expMap_apply,
+      mult_isReal, mult_isComplex, pow_one, Finset.prod_pow, pow_two, mul_assoc, mul_inv_cancel₀
+      (Finset.prod_ne_zero_iff.mpr <| fun _ _ ↦ Real.exp_ne_zero _), mul_one]
+  · simp [prod_eq_prod_mul_prod, mult_isReal, mult_isComplex]
+
+variable (K) in
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean:481]:
```suggestion
variable (K)

```
Just because you have it three times (of course it needs `variable {K} later`).

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by xroblot** [comment]
bors+
